US09161927B2
23.3 4-[4-(4,5-dihydrooxazol-2-yl)-phenoxy]-piperidine (V-2)
50 mg tert-butyl 4-[4-(4,5-dihydrooxazol-2-yl)-phenoxy]-piperidine-1-carboxylate are taken and mixed with 6 ml of a (5/1) dichloromethane/trifluoroacetic acid mixture. The reaction mixture is stirred at ambient temperature and after 15 min it is cautiously mixed with a saturated NaHCO3 solution. The organic phase is dried and evaporated to dryness. 20 mg (V-2) are obtained.

reactant | tert-butyl 4-[4-(4,5-dihydrooxazol-2-yl)-phenoxy]-piperidine-1-carboxylate | 50 mg | O1C(=NCC1)C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H26N2O4
reactant | dichloromethane trifluoroacetic acid | ClCCl.FC(C(=O)O)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-[4-(4,5-dihydrooxazol-2-yl)-phenoxy]-piperidine | O1C(=NCC1)C1=CC=C(OC2CCNCC2)C=C1 | C14H18N2O2
